US08071600B2
Triethylamine (1.03 ml, 7.4 mmol) and isobutyl chloroformate (0.76 ml, 5.5 mmol) were added to an acetonitrile solution (12 ml) of 6-chloronicotinic acid (0.58 g, 3.6 mmol) under ice cooling and the mixture was stirred at 0° C. for 30 minutes. To the solution mixture, 2,2,2-trifluoroethyl amine (0.88 ml, 11.2 mmol) was added and the mixture was stirred at room temperature for 10 minutes. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extraction solution with ethyl acetate was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=5:1→1:1). The purified product was concentrated under reduced pressure and diisopropyl ether and n-hexane were added. The insoluble matter precipitated was obtained by filtration and dried to obtain 6-chloro-N-(2,2,2-trifluoroethyl)nicotine amide (0.58 g) as light yellow powder.

reactant | Triethylamine | 7.4 mmol, 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 5.5 mmol, 0.76 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-chloronicotinic acid | 3.6 mmol, 0.58 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 2,2,2-trifluoroethyl amine | 11.2 mmol, 0.88 ml | FC(CN)(F)F | C2H4F3N
solvent | Water | O | H2O
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 6-chloro-N-(2,2,2-trifluoroethyl)nicotine amide | 0.58 g | ClC1=NC=C(C(=O)NCC(F)(F)F)C=C1 | C8H6ClF3N2O
